US07713978B2
Description 21: 4-[cis-3,5-Dimethyl-1-piperazinyl]-2-pyridinamine
A solution of 4-[cis-3,5-dimethyl-1-piperazinyl]-N-(diphenylmethylidene)-2-pyridinamine (D20) (650 mg, 1.76 mmol) in tetrahydrofuran (5 ml) was treated with 1.0M hydrochloric acid (5 ml) and the mixture stirred at room temperature for 1 hour. The mixture was diluted with water and washed with diethyl ether. The aqueous phase was basified with 50% aq. sodium hydroxide then saturated with sodium chloride. The mixture was extracted with ethyl acetate (×2). The combined extracts were dried and evaporated to give the title compound (D21). 1H NMR CDCl3 ppm δ (6H, d), 2.33-0.238 (2H, m), 2.91-2.96 (2H, m), 3.58-3.62 (2H, m), 5.85 (1H, s), 6.18-6.20 (1H, m), 7.78-8.00 (1H, d).

reactant | 4-[cis-3,5-dimethyl-1-piperazinyl]-N-(diphenylmethylidene)-2-pyridinamine | 1.76 mmol, 650 mg | C[C@@H]1CN(C[C@@H](N1)C)C1=CC(=NC=C1)N=C(C1=CC=CC=C1)C1=CC=CC=C1 | C24H26N4
reactant | hydrochloric acid | 1.0M, 5 ml | Cl | ClH
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 4-[cis-3,5-Dimethyl-1-piperazinyl]-2-pyridinamine | C[C@@H]1CN(C[C@@H](N1)C)C1=CC(=NC=C1)N | C11H18N4
